US06075039
1-(2-Chloroethyl)-3-[4-(5-methyl-1,2,4-oxadiazol-3-yl)phenyl]methyl-1,3-dihydro-2H-benzimidazol-2-one
1-[4-(5-Methyl-1,2,4-oxadiazol-3-yl)phenyl]methyl-1,3-dihydro-2H-benzimidazol-2-one (0.416 g, 1.36 mmol) was added to a suspension of 60% sodium hydride (0.06 g, 1.49 mmol, dispersion in oil) in N-methylpyrrolidinone (3 ml) and stirred for 2 hours. More N-methylpyrrolidinone (2 ml) was added followed by 1-bromo-2-chloroethane (0.203 ml, 0.351 g, 2.44 mmol). The resultant mixture was allowed to stir at room temperature for 16 h then water was added and the mixture extracted with ethyl acetate (2×30 ml). The organic layer was washed with water (4×50 ml), brine (50 ml), dried (MgSO4).filtered and evaporated in vacuo to give a light brown oil.

reactant | 1-[4-(5-Methyl-1,2,4-oxadiazol-3-yl)phenyl]methyl-1,3-dihydro-2H-benzimidazol-2-one | 1.36 mmol, 0.416 g | CC1=NC(=NO1)C1=CC=C(C=C1)CN1C(NC2=C1C=CC=C2)=O | C17H14N4O2
reactant | sodium hydride | 1.49 mmol, 0.06 g | [H-].[Na+]
reactant | 1-bromo-2-chloroethane | 2.44 mmol, 0.203 ml, 0.351 g | BrCCCl | C2H4BrCl
reactant | water | O | H2O
solvent | N-methylpyrrolidinone | 3 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidinone | 2 ml | CN1C(CCC1)=O | C5H9NO
product | 1-(2-Chloroethyl)-3-[4-(5-methyl-1,2,4-oxadiazol-3-yl)phenyl]methyl-1,3-dihydro-2H-benzimidazol-2-one | ClCCN1C(N(C2=C1C=CC=C2)CC2=CC=C(C=C2)C2=NOC(=N2)C)=O | C19H17ClN4O2
